US04756777
1-fluoro-1,1-dinitro-2-propanol
"1-fluoro-1,1-dinitropropanol-2. A 38% aqueous solution of acetaldehyde, 5.2 g, was added to a well-stirred and cooled mixture of 3.7 g of fluorodinitromethane and 5 ml of water. A few drops of saturated sodium bicarbonate solution was added and the mixture stirred with continued cooling for 1 hr. It was then acidified with dilute sulfuric acid, the product extracted into methylene chloride, and the extract dried and distilled. Obtained was 4 g (79%), bp 40°-42° (0.5 mm)."

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | fluorodinitromethane | 3.7 g | FC([N+](=O)[O-])[N+](=O)[O-] | CHFN2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | sodium bicarbonate | A few drops | C([O-])(O)=O.[Na+]
solvent | water | 5 ml | O | H2O
product | 1-fluoro-1,1-dinitro-2-propanol | FC(C(C)O)([N+](=O)[O-])[N+](=O)[O-] | C3H5FN2O5
